US04593029
A mixture of 50 g (300 mmol) of 5-hydroxy-2-nitrobenzaldehyde, 59 g (330 mmol) 6-chlorohexanol acetate, 5 g of potassium iodide, and 50 g of potassium carbonate in 500 ml of dry DMF was heated to 100° C. under dry nitrogen for 3 h. The reaction was cooled, filtered and evaporated to a dark oil. The crude product was dissolved in 500 ml of ethyl acetate, and the organic layer was washed twice with 300 ml of saturated sodium carbonate, and twice with 300 ml of brine, dried filtered and evaporated. Distillation (180° C., 0.2 mm) gave a yellow oil which solidified on cooling, to yield 81.5 g (263 mmol, 88%) of 5-(6-acetoxyhexyl)oxy-2-nitrobenzaldehyde, m.p. 42°-43° C.

reactant | 5-hydroxy-2-nitrobenzaldehyde | 300 mmol, 50 g | OC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H5NO4
reactant | 6-chlorohexanol acetate | 330 mmol, 59 g | C(C)(=O)OCCCCCCCl | C8H15ClO2
reactant | potassium iodide | 5 g | [I-].[K+]
reactant | potassium carbonate | 50 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 5-(6-acetoxyhexyl)oxy-2-nitrobenzaldehyde | 263 mmol, 81.5 g, 88% | C(C)(=O)OCCCCCCOC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C15H19NO6
